US07173055B1
1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid (4′-chlorobiphenyl-2-yl) amide
A solution of 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid(2-bromo-phenyl)amide (0.64 g), 4-chlorobenzene boronic acid (0.29 g), powdered sodium carbonate (0.25 g) and tetrakis(triphenylphosphine) palladium (0.04 g) in 25 ml 1,2-dimethoxyethane (DME) and 2 ml water is heated at reflux temperature for 20 hours. After cooling, the solvent is removed in a water jet vacuum and the residue taken up in ethylacetate/water. The ethylacetate phase is washed twice with water and brine and then dried over sodium sulfate. Distilling off the solvent left the raw material which can be further purified by column chromatography (silicagel; eluant: ethylacetate/hexane 1:1) or recrystallization from TBME/hexane. The yield after purification is 0.6 g; m.p.=145–146° C.

reactant | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid(2-bromo-phenyl)amide | 0.64 g | BrC1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C12H9BrF3N3O
reactant | 4-chlorobenzene boronic acid | 0.29 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 0.25 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
solvent | water | 2 ml | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 0.04 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid (4′-chlorobiphenyl-2-yl) amide | ClC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C18H13ClF3N3O
